US08232294B2
Step 4) 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid
To a mixture of ethyl 1-((4-fluorophenyl)carbamoyl)cyclopropane-carboxylate (8.9 g, 35.4 mmol) in EtOH/THF (50/50 mL, Guangdong Guanghua Chem. Co. Ltd.) was added KOH (3.98 g, 70.8 mmol, Guangdong Guanghua Chem. Co. Ltd.) aqueous solution dropwise via a syringe. The reaction was stirred at RT overnight under N2. The mixture was concentrated in vacuo. The residue was then acidified to pH 2 with 5 N HCl and extracted with EtOAc (150 mL×4), the combined organic phases were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was recrystallized in EtOAc/n-hexane (1:40 v/v) to give the title compound as a white solid (7.66 g, 97%).

reactant | ethyl 1-((4-fluorophenyl)carbamoyl)cyclopropane-carboxylate | 35.4 mmol, 8.9 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)OCC | C13H14FNO3
reactant | KOH | 70.8 mmol, 3.98 g | [OH-].[K+]
solvent | EtOH THF | 50 mL | CCO.C1CCOC1
product | 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 7.66 g, 97% | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
